Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin / citalopram / Cardura
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ healthy man with history of prior lyme, tick exposure, 2 
weeks of stable exertional angina (3 discrete episodes), with 
another episode last night (on way back from vacation) in 
addition to several days of myalgias, fatigue. Was in good 
health until about 2 weeks ago when he was doing light gardening 
work in his yard (near the ___ and a forest) and 
noticed non-radiating substernal chest pressure that resolved 
within less than an hour with rest. He had a similar episode a 
few days later, however this time he also had burning pain which 
improved with ranitidine and tums. Last night he returned from a 
trip to ___ and was carrying suitcases up stairs when he 
again had the same sensation. The chest tightness was associated 
with slight dyspnea, but no diaphoresis. He has not experienced 
any palpitations, lightheadedness, or lower extremity edema.

He also endorses 5 days of intermittent headache and body aches 
along with fevers (measured up to 100.1) and chills. No 
photophobia, neck stiffness.  Recent travel to ___, no sick 
contacts, no other symptoms. Seen at ___ today 
because of his persistent myalgias and headache. He was referred 
to our ED out of concern that symptoms had cardiac etiology.
 
In the ED, initial vitals were 97.3 95 134/76 12 97% RA. Labs, 
including lactate and troponin, were unremarkable. CXR 
unremarkable. EKG notable for 1st degree AV block (PR 250) - no 
past EKGs available for visual comparison, though reports of 
EKGs from ___ also note 1st degree block, so this may be 
chronic. Cardiology consulted, who felt chest pain represented 
stable angina, which could be worked up as outpatient, however 
given prolonged pr, possible history of tick exposure (though 
patient does not report any tick bites or rashes), concern was 
raised for cardiac manifestations of lyme disease. Patient was 
admitted for IV ceftriaxone and telemetry monitoring.
 
Past Medical History:
Lyme Disease (___)
Panic Attacks
Shoulder pain
TURP (___)
Carpal Tunnel (___)
Colorectal surgery (Hemorrhoid removal)
Right lumbar radiculopathy
Degenerative disk disease
Hyperlipidemia
 
Social History:
___
Family History:
Father died of MI at age ___.
Brother had colon cancer.
 
Physical Exam:
Admission Exam:
-------------------
Vitals:98.3 140/78 99 16 99%RA  
General:  WNWD, looks younger than stated age; NAD
HEENT:  PERRL, EOMI, mucus membranes moist
Neck:  Supple, no JVD
CV:  RRR, no mrg
Lungs:  CTAB, no crackles or wheezes
Abdomen:  Soft, non-tender, non-distended.
Extr:  no c/e/e; extremities warm, distal pulses intact
Neuro:  Alert and orientedx3; moving all extremities.
Skin:  Intact, no stasis dermatitis.

Discharge Exam:
-------------------
Vitals:98.1 115/79 81 18 98% RA
Telemetry: HR 75-105; NSR; long PR
I/O: not recorded.
Weight: ___
Admit weight: 77kg
General:  WNWD, looks younger than stated age; NAD
HEENT:  PERRL, EOMI, mucus membranes moist
Neck:  Supple, no JVD
CV:  RRR, no mrg
Lungs:  CTAB, no crackles or wheezes
Abdomen:  Soft, non-tender, non-distended.
Extr:  no c/e/e; extremities warm, distal pulses intact
Neuro:  Alert and orientedx3; moving all extremities.
Skin:  Intact, no stasis dermatitis.
 
Pertinent Results:
___ 05:20PM   cTropnT-<0.01
___ 11:35AM   cTropnT-<0.01
___ 03:14PM   LACTATE-1.1
___ 11:35AM   GLUCOSE-116* UREA N-17 CREAT-0.9 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-22 ANION GAP-16
___ 11:35AM   WBC-5.2 RBC-4.69 HGB-15.2 HCT-43.4 MCV-93 
MCH-32.4* MCHC-35.0 RDW-12.5 RDWSD-42.3
___ 11:35AM   PLT COUNT-129*
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD cTropnT-<0.01

 LYME SEROLOGY (Final ___: 
      NO ANTIBODY TO B. BURG___ DETECTED BY EIA. 
      Reference Range:  No antibody detected. 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody.  Patients with clinical 
history and/or
      symptoms suggestive of lyme disease should be retested in 
___ weeks. 

Chest X-Ray ___
No acute intrathoracic process.
 
Brief Hospital Course:
___ year old man presented with exertional chest pain concerning 
for new onset stable angina, as well as myalgias and headache, 
and was noted to have 1st degree AV block on EKG.

#1st degree AV block
On EKG patient was noted to have prolongated PR interval 
(250ms). Review of outside records revealed that he has been 
noted to have 1st degree AV block for many years, however actual 
EKG images were not immediately available. In the setting of 
past Lyme disease, known antibody positivity for Babesia noted 
by Red Cross, and repeat possible exposures in wooded setting 
near patient's house, patient was empirically treated for Lyme 
carditis with one dose of 2g IV ceftriaxone. When lyme 
serologies were negative the antibiotic was discontinued. 
Babesia antibodies were also sent and are pending.

#Anginal Chest Pain
Patient reports 3 episodes of chest pain with exertion over the 
past 3 weeks (twice with light gardening, once when carrying 
suitcases up stairs). This is concerning for new, stable angina. 
An outpatient stress echo and follow up with cardiology in 
___ was scheduled.

#Headache and Myalgias
Patient has had headaches and myalgia for several days. At 
presentation, these did not seem severe, and were resolving by 
the end of his hospital stay. These were most likely symptoms of 
a viral illness. There was no evidence on EKG or physical exam 
or history of viral cardiomyopathy or other process connecting 
these symptoms and his chest pain; though lyme was considered 
(see above).

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Ranitidine 150 mg PO BID 
4. Zolpidem Tartrate 10 mg PO QHS:PRN insomina 
5. Lorazepam 0.5 mg PO BID 
6. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Lorazepam 0.5 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. Ranitidine 150 mg PO BID 
6. Zolpidem Tartrate 10 mg PO QHS:PRN insomina 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest Pain
Headache
Myalgia
1st degree AV block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital for recurring chest pain, 
myalgia, and headache, as well as EKG changes. We monitored you 
on telemetry, did blood tests for lyme disease, and gave you one 
dose of antibiotic treatment. Blood tests showed that you do not 
have Lyme disease. We checked blood tests for babesia; they were 
pending at the time of discharge. 

We are concerned that your chest pain may be due to a partial 
blockage in the arteries of your heart. We recommend that you 
have a stress echocardiogram to assess your heart function, and 
you have scheduled an appointment for this at ___ 
for ___ at 1pm.

All of your medications are detailed in your discharge 
medication list. You should review this carefully and take it 
with you to any follow up appointments.

The details of your follow up appointments are given below.

It was a pleasure taking care of you.
Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___